US09120757B2
To a solution of (R/S) tert-butyl methyl(2-(methyl((3-(piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate (200 mg, 0.46 mmol, 1.00 equiv) and triethylamine (1.14 g, 11.26 mmol, 24.52 equiv) in dichloromethane (15 mL) was added 3-methylbutanoyl chloride (67 mg, 0.56 mmol, 1.21 equiv). The resulting solution was stirred at room temperature for 2 h. The reaction was then quenched by the addition of 2 mL of water. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to give 250 mg of crude (R/S) tert-butyl methyl(2-(methyl((3-(1-(3-methylbutanoyl)piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate as a yellow solid. LCMS (method D, ESI): RT=1.22 min, m/z=520.0 [M+H]+.

reactant | (R/S) tert-butyl methyl(2-(methyl((3-(piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate | 0.46 mmol, 200 mg, 1.00 equiv | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1CCNCC1)C | C23H41N5O3
reactant | triethylamine | 11.26 mmol, 1.14 g, 24.52 equiv | C(C)N(CC)CC | C6H15N
reactant | 3-methylbutanoyl chloride | 0.56 mmol, 67 mg, 1.21 equiv | CC(CC(=O)Cl)C | C5H9ClO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (R/S) tert-butyl methyl(2-(methyl((3-(1-(3-methylbutanoyl)piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate | 250 mg | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1CCN(CC1)C(CC(C)C)=O)C | C28H49N5O4
